US04196208
Preparation of 2-[4-(hexadecylamino)benzoyloxy]-5-methyltetrahydrofuran
In 50 ml. of 1,2-dimethoxyethane, 9.4 g. of N-trifluoroacetyl-4-(hexadecylamino)benzoyl chloride, 2.2 g. of triethylamine and 2.2 g. of 2-hydroxy-5-methyltetrahydrofuran are heated together at 60° C. for 24 hours. After addition at 30° C. of a small amount of aqueous potassium carbonate and standing for 4 hours, the white crystalline product is isolated by addition of water, filtration and recrystallization from acetonitrile.

reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
reactant | N-trifluoroacetyl-4-(hexadecylamino)benzoyl chloride | FC(C(=O)N(C1=CC=C(C(=O)Cl)C=C1)CCCCCCCCCCCCCCCC)(F)F | C25H37ClF3NO2
reactant | 2-hydroxy-5-methyltetrahydrofuran | OC1OC(CC1)C | C5H10O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[4-(hexadecylamino)benzoyloxy]-5-methyltetrahydrofuran | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC2OC(CC2)C)C=C1 | C28H47NO3
